US04847256
4,5,6,7-Tetrahydro-2-methylpyrazolo[1,5-a]pyrimidine-3-carboxamide
A 1.0 g portion of 4,5,6,7-tetrahydro-2-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile was dissolved with stirring in 5.0 ml of concentrated sulfuric acid. The mixture was stirred for 6 hours at room temperature then poured onto ice. This mixture was made basic with concentrated ammonium hydroxide and then was filtered to give the product of the example as a colorless solid, mp 234°-236° C.

reactant | 4,5,6,7-tetrahydro-2-methylpyrazolo[1,5-a]pyrimidine-3-carbonitrile | CC1=NN2C(NCCC2)=C1C#N | C8H10N4
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 5.0 ml | S(O)(O)(=O)=O | H2O4S
product | 4,5,6,7-Tetrahydro-2-methylpyrazolo[1,5-a]pyrimidine-3-carboxamide | CC1=NN2C(NCCC2)=C1C(=O)N | C8H12N4O
